US05021420
The experiment is carried out as in Example 56, starting with 2-(4-bromo-2-butyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (5.2 g), triethylamine (2.1 cc) and 4-(4-fluorophenyl)piperazine (2.8 g) in toluene (200 cc). The mixture is heated at boiling point for 8 hours and then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with a mixture of dichloromethane and ethyl acetate (90-10 as eluant, crystallization from isopropyl oxide (30 cc) and recrystallization from boiling acetonitrile (10 cc), 2-{4-[4-(4-fluorophenyl)-1-piperazinyl]-2butyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (1.2 g) is obtained, m.p. 116° C.

reactant | 2-(4-bromo-2-butyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 5.2 g | BrCCC(C)N1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C14H14BrNO2S
reactant | triethylamine | 2.1 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-fluorophenyl)piperazine | 2.8 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{4-[4-(4-fluorophenyl)-1-piperazinyl]-2butyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 1.2 g | FC1=CC=C(C=C1)N1CCN(CC1)CCC(C)N1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C24H26FN3O2S
